US07964643B2
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-buten-1-yl-amide (ABD-179)
Using a method analogous to that described in Example 4, with biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide and 4-bromobutene, reacted at 60° C. for 3 hours, the title compound was obtained as a white powder. δC (CDCl3, 62.9 MHz): 25.2, 29.6, 33.4, 47.8, 48.3, 62.4, 117.2, 127.3, 127.6, 127.7, 128.5, 129.1, 134.6, 138.4, 139.3 and 145.3. δH (CDCl3, 250 MHz): 1.58 (4H, m), 2.34 (3H, m), 3.21 (4H, m), 3.66 (2H, t, J 6.1), 5.04 (2H, m), 5.69 (1H, m), 7.46 (3H, m), 7.60 (2H, d, J 7.3), 7.70 (2H, d, J 8.2) and 7.86 (2H, d, J 8.2)

reactant | biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | 4-bromobutene | BrCCC=C | C4H7Br
product | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-buten-1-yl-amide | OCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C=CCC | C20H25NO3S
